US06268444B1
Preparation of 1-chloro-N-cyclohexyl-1,1-dimethylsilanamine, (30).
In the drybox in a 250 mL flask 60.0 mL (490.89 mmol) of dichlorodimethylsilane was stirred in about 80 mL of THF. To this stirring solution 6.00 g (57.08 mmol) of lithium cyclohexylamide was added as a solid slowly and stirred overnight. The THF was removed under vacuum leaving a cloudy solution. Hexane was added to this mixture and the solids were filtered off and washed with hexane. The hexane was then removed from the filtrate under vacuum leaving a clear light yellow product weighing 9.18 g. Yield 84 percent.

reactant | dichlorodimethylsilane | 490.89 mmol, 60.0 mL | Cl[Si](C)(C)Cl | C2H6Cl2Si
reactant | lithium cyclohexylamide | 57.08 mmol, 6.00 g | C1(CCCCC1)[NH-].[Li+]
reactant | Hexane | CCCCCC | C6H14
solvent | THF | about 80 mL | C1CCOC1 | C4H8O
product | 1-chloro-N-cyclohexyl-1,1-dimethylsilanamine | Yield 84 percent | Cl[Si](NC1CCCCC1)(C)C | C8H18ClNSi
